US09238647B2
Step C: tert-butyl 5-chloro[1,2,4]triazolo[4,3-a]pyridine-7-carboxylate
Trimethyl orthoformate (100 mL, 903 mmol) was added neat to tert-butyl 2-chloro-6-hydrazinoisonicotinate (10.0 g, 41.0 mmol). The mixture was heated to 85° C. After 5 h, the mixture was cooled to ambient temperature and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (4.55 g): LC-MS [M+1]=254.1.

reactant | Trimethyl orthoformate | 903 mmol, 100 mL | C(OC)(OC)OC | C4H10O3
reactant | tert-butyl 2-chloro-6-hydrazinoisonicotinate | 41.0 mmol, 10.0 g | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)NN | C10H14ClN3O2
product | tert-butyl 5-chloro[1,2,4]triazolo[4,3-a]pyridine-7-carboxylate | 4.55 g | ClC1=CC(=CC=2N1C=NN2)C(=O)OC(C)(C)C | C11H12ClN3O2
